US07504513B2
In a similar manner as described for Example 26, 4-bromo-2-(5,6-dimethoxy-benzoimidazol-1-yl)-thiazole-5-carboxylic acid methyl ester (40 mg, 0.1 mmol) and 3-bromophenylboronic acid (30 mg, 0.15 mmol) gave 4-(3-Bromo-phenyl)-2-(5,6-dimethoxy-benzoimidazol-1-yl)-thiazole-5-carboxylic acid (4.0 mg, 9%) as a white solid. MS 460 m/z (M+1).

reactant | 4-bromo-2-(5,6-dimethoxy-benzoimidazol-1-yl)-thiazole-5-carboxylic acid methyl ester | 0.1 mmol, 40 mg | COC(=O)C1=C(N=C(S1)N1C=NC2=C1C=C(C(=C2)OC)OC)Br | C14H12BrN3O4S
reactant | 3-bromophenylboronic acid | 0.15 mmol, 30 mg | BrC=1C=C(C=CC1)B(O)O | C6H6BBrO2
product | 4-(3-Bromo-phenyl)-2-(5,6-dimethoxy-benzoimidazol-1-yl)-thiazole-5-carboxylic acid | 4.0 mg, 9% | BrC=1C=C(C=CC1)C=1N=C(SC1C(=O)O)N1C=NC2=C1C=C(C(=C2)OC)OC | C19H14BrN3O4S
